US07253281B2
Sodiumhydride (0.89 g, 20.1 mmol) was suspended in dimethylformamide (15 mL) and a solution of 6-chloro-1H-indole-2-carboxylic acid ethyl ester (2.00 g, 8.9 mmol) in dimethylformamide (8 mL) was added at 0° C. The mixture was stirred for 1 h at 0° C. then 2-bromo-propionitrile (3.6 g, 23.95 mmol) was added. After 1 h at room temperature the mixture was heated at 75° C. for 18 hours. The reaction mixture was then added to an ice/water mixture (100 mL) and extracted with ethylacetate. The organic phases were pooled washed with brine, dried with Na2SO4 and the solvent was removed in vacuo. Chromatography on silica gel (ether/n-hexane 1:4) yielded 6-chloro-1-(cyano-methyl-methyl)-1H-indole-2-carboxylic acid ethyl ester (2.06 g, 67%) as a colorless solid, MS: m/e=277.2 (M+H+).

reactant | Sodiumhydride | 20.1 mmol, 0.89 g | [H-].[Na+]
reactant | 6-chloro-1H-indole-2-carboxylic acid ethyl ester | 8.9 mmol, 2.00 g | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)Cl | C11H10ClNO2
reactant | 2-bromo-propionitrile | 23.95 mmol, 3.6 g | BrC(C#N)C | C3H4BrN
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 6-chloro-1-(cyano-methyl-methyl)-1H-indole-2-carboxylic acid ethyl ester | 2.06 g, 67% | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1)Cl)C(C)C#N | C14H13ClN2O2
